US07521449B2
A) 1-Benzyl-4-(pyrid-2-yl)piperid-4-ol
A solution of 22.2 g of 2-bromopyridine in 100 ml of THF is cooled to −70° C., 87.8 ml of n-butyllithium are added dropwise and the mixture is stirred for 30 minutes. A solution of 25.6 g of 1-benzyl-4-piperidinone in 100 ml of THF is then added dropwise at −60° C., and the mixture is stirred overnight while allowing the temperature to rise to rt. The reaction mixture is poured into water and extracted with ether, the organic phase is washed with water and dried over Na2SO4, and the solvent is evaporated off under vacuum. The residue is chromatographed on silica H gel, eluting with DCM and then with a DCM/MeOH mixture gradient of from (99/1; v/v) to (90/10; v/v). 21.5 g of the expected product are obtained.

reactant | 2-bromopyridine | 22.2 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyllithium | 87.8 ml | C(CCC)[Li]
reactant | 1-benzyl-4-piperidinone | 25.6 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-4-(pyrid-2-yl)piperid-4-ol | 21.5 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=NC=CC=C1 | C17H20N2O
